datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1C[CH:10]=[C:11]([N:12]2CCCC2)C1.CO[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10]2CCC[C:11]2=[N+:12]2CCCC2)[CH:21]=[N+:22]([O-:23])[O-:33])[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1C[C:22](=[O:23])[CH:21]=[CH:20]1.C1C[CH:11]([H:10])[O:12]C1>>C1C[C:22]([O-:23])=[CH:21][CH:20]1[H:10].C1C[CH:11]=[O+:12]C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.C[O:12][CH:11]([H:10])[O:62]C>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.C[O+:12]=[CH:11][O:62]C 10,11=10,20;12=11,12"
"CC[Ge:63](CC)(CC)[CH2:62][CH2:11][H:10].Cl[C:32]1=[N+:21]([F:20])[C:42](Cl)=[CH:43][CH:34]=[CH:33]1>>CC[Ge:63](CC)(CC)[CH2:62][CH2+:11].Cl[C:32]1=[N:21][C:42](Cl)=[CH:43][CH:34]=[CH:33]1.[H:10][F:20] 10,11=10,20;20,21=21"
"CN1C=C[N+](C)=C1[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23].C[NH:10][NH:61]C>>CN1C=C[N+](C)=C1[C:22](=[CH:21][CH:20]([NH+:10](C)[NH:61]C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[O-:23] 10=20;20,21=21,22;22,23=23"
"CC[N:82](CC)/[C:11](=[CH:10]/[N+:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1)[O-:12].[CH:20]1=[CH:21][C:22](=[O:23])[CH:30]=[CH:31][C:32]1=[O:33]>>CC[N:82](CC)[C:11]([CH:10]([CH:20]1[CH:21]=[C:22]([O-:23])[CH:30]=[CH:31][C:32]1=[O:33])[N+:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1)=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:72]/[C:11](=[CH:10]/[S+:61](C)C)[O-:12].F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([C+:20]([C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1>>CC[O:72][C:11]([CH:10]([C:20]([C:31]1=[CH:32][C:33](F)=[CH:34][C:35](F)=[CH:36]1)([C:41]1=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]1)[S+:61](C)C)=[O:12] 10,11=10,20;12=11,12"
"C1=CC=C([C:71]([CH:10]=[N+:11]([O-:12])[O-:62])=[O:72])C=C1.C[N:51]1C(=O)[N:52](C)[C:32](=[O:33])[C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:22]1=[O:23]>>C[N:51]1C(=O)[N:52](C)[C:32](=[O:33])[C:21]([CH:20]([CH:10]([N+:11](=[O:12])[O-:62])[C:71](C2=CC=CC=C2)=[O:72])[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)=[C:22]1[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)([CH:10](C)C2=CC=CC=C2)[O:12]1.Cl[B-:33](Cl)(Cl)[O+:21]=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)=[O+:12]1.C[CH:10](C1=CC=CC=C1)[CH:20]([O:21][B-:33](Cl)(Cl)Cl)[C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1 10,11=10,20;12=11,12;20,21=21"
"C1CC[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1.CC[O:82][C:71]([CH:10]=[N+:11]([O-:12])[O-:62])=[O:72]>>CC[O:82][C:71]([CH:10]([N+:11](=[O:12])[O-:62])[CH:20]([CH:21]=[CH:22][N:23]1CCCC1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:72] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1C[S:31][CH+:20][S:41]C1.CO[C:94]1=[CH:93][CH:92]=[C:91]([C:10]2=[C:11]([O-:12])[O:62]C(C)(C)[O:83][C:72]2=[O:73])[CH:102]=[CH:103]1>>CO[C:94]1=[CH:93][CH:92]=[C:91]([C:10]2([CH:20]3[S:31]CCC[S:41]3)[C:11](=[O:12])[O:62]C(C)(C)[O:83][C:72]2=[O:73])[CH:102]=[CH:103]1 10,11=10,20;12=11,12"
"CC(C)(C)[O:33][C:22]([CH:21]=[CH2:20])=[O:23].O=C[C:71]1=[N:72][CH:62]=[CH:61][N-:10]1>>CC(C)(C)[O:33][C:22](=[CH:21][CH2:20][N:10]1[CH:61]=[CH:62][N:72]=[C:71]1C=O)[O-:23] 10=20;20,21=21,22;22,23=23"
"CC[O:33][C:31](/[CH:20]=[C:21](C)/[N:22]=[N:23]/[C:24](N)=[O:25])=[O:32].CO[C-:10]([C:61](=[O:62])[O:72]C)[C:81](=[O:82])[O:92]C>>CC[O:33][C:31]([CH:20]([C:10](OC)([C:61](=[O:62])[O:72]C)[C:81](=[O:82])[O:92]C)[C:21](C)=[N:22][N:23]=[C:24](N)[O-:25])=[O:32] 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C[C:63]1=[N+:62]([BH2-:11][H:10])[C:73](C)=[CH:74][CH:65]=[CH:64]1.O=S(=O)(C(F)(F)F)[C:21]1=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[C:33]([N+:22]([O-])=[O:23])=[CH:32]1>>C[C:63]1=[N+:62]([BH2:11])[C:73](C)=[CH:74][CH:65]=[CH:64]1.O=S(=O)(C(F)(F)F)[C:21]12[CH:20]([H:10])[C:41]3=[N+:42]([O-])O[N:35]=[C:34]3[C:33](=[CH:32]1)[N+:22]2([O-])[O-:23] 10,11=10,20;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[C:21]2[C:22](=[O:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1.[N:10](=[O:61])[O-:71]>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N+:10](=[O:61])[O-:71])[C:21]2=[C:22]([O-:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1 10=20;20,21=21,22;22,23=23"
"CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](Br)[C:24](=[O:25])[C:33](Br)=[CH:32]2)[CH:46]=[CH:45]1.C[C:61]([N-:10][C:71](C)=[O:72])=[O:62]>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([N:10]([C:61](C)=[O:62])[C:71](C)=[O:72])[C:21]2=[CH:22][C:23](Br)=[C:24]([O-:25])[C:33](Br)=[CH:32]2)[CH:46]=[CH:45]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
